US07044987B2
A) Synthesis of 3-(6-methoxy-3-nitro-2-pyridylamino)propane-1,2-diol
4 g (0.0212 mol) of the product 2-chloro-3-nitro-6-methoxypyridine, 50 ml of ethanol and 3.9 g (0.0424 mol) of racemic 3-aminopropane-1,2-diol are placed in a fully equipped round-bottomed flask. The mixture is refluxed for 2 hours with stirring and is then poured onto an ice/water mixture with stirring. The precipitate formed is filtered off by suction and dried under vacuum to constant weight. 2.19 g of yellow powder are obtained, ie a yield of 43%.

reactant | 2-chloro-3-nitro-6-methoxypyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | racemic 3-aminopropane-1,2-diol | 0.0424 mol, 3.9 g | NCC(CO)O | C3H9NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(6-methoxy-3-nitro-2-pyridylamino)propane-1,2-diol | 2.19 g, yield of 43% | COC1=CC=C(C(=N1)NCC(CO)O)[N+](=O)[O-] | C9H13N3O5
